US04775671
A mixture of 37.3 g (116.6 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 5.276 g (131.9 mmol) of sodium hydroxide, 150 ml of ethanol and 100 ml of water is heated to boiling under reflux for 15 minutes. The mixture is then neutralized by the addition of 132 ml of 1N hydrochloric acid, the ethanol is distilled off in vacuo and the residue is diluted with 100 ml of water. The mixture is cooled to about 0°, the product is filtered off under suction, rinsed with water and dried at 80° in a high vacuum. There is obtained 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid of decomposition point 283°-284°.

reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 116.6 mmol, 37.3 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | sodium hydroxide | 131.9 mmol, 5.276 g | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1N, 132 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
